US06057329
3-Methoxy-7,8-dihydro-5(6H)-isoquinolinone
A solution of 3-methoxy-7,8-dihydro-5(6H)-isoquinolinone oxime (1.20 g, 6.25 mmol) in a mixture of acetone (40 ml) and 6M hydrochloric acid (27 ml) was refluxed for 4 h then allowed to cool to room temperature. The mixture was concentrated to remove acetone then basified with sodium carbonate and extracted four times with ethyl acetate. The combined organic extracts were dried (MgSO4), concentrated and the residue subjected to column chromatography (silica, ethyl acetate-hexane, 1:4) to afford the title compound (0.81 g) as a white solid m.p. 7981°. MS (ES+) 178 (MH+).

reactant | 3-methoxy-7,8-dihydro-5(6H)-isoquinolinone oxime | 6.25 mmol, 1.20 g | COC=1N=CC=2CCCC(C2C1)=NO | C10H12N2O2
reactant | acetone | 40 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 6M, 27 ml | Cl | ClH
product | 3-Methoxy-7,8-dihydro-5(6H)-isoquinolinone | 0.81 g | COC=1N=CC=2CCCC(C2C1)=O | C10H11NO2
